US08431578B2
Step B: 1-(5-Bromo-pyridin-3-yl)-4,4-dimethyl-pent-1-yn-3-one
3-Bromo-5-trimethylsilanylethynyl-pyridine (1.0 eq, 1.22 g, 4.78 mmol), pivaloyl chloride (1.1. eq, 0.647 ml, 5.26 mmol) and copper(I) chloride (0.2 eq, 95 mg, 0.96 mmol) are dissolved in DMF (8 ml). The resulting mixture is heated using microwave radiation at 120° C. for 30 min. The mixture is filtered and washed with EtOAc. The filtrate is concentrated in vacuo and partitioned between sat. aqueous NaHCO3 solution and EtOAc. The organic portion is separated, dried (MgSO4) and concentrated in vacuo to afford the title compound; [M+H]+=266/268.

reactant | 3-Bromo-5-trimethylsilanylethynyl-pyridine | 4.78 mmol, 1.22 g, 1.0 eq | BrC=1C=NC=C(C1)C#C[Si](C)(C)C | C10H12BrNSi
reactant | pivaloyl chloride | 5.26 mmol, 0.647 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
catalyst | copper(I) chloride | 0.96 mmol, 95 mg, 0.2 eq | [Cu]Cl
product | 1-(5-Bromo-pyridin-3-yl)-4,4-dimethyl-pent-1-yn-3-one | BrC=1C=C(C=NC1)C#CC(C(C)(C)C)=O | C12H12BrNO
